### PR TITLE
Add Erdős Problem 593 (obligatory 3-uniform subhypergraphs, $500 prize)

### LINKED ISSUE #813: Erdős Problem 593
### What is the conjecture
    
https://www.erdosproblems.com/593

  Characterize those finite 3-uniform hypergraphs which appear in every 3-uniform hypergraph of chromatic number $>\aleph_0$.
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by henrykmichalewski**
fixes #813 

## Problem
Erdős Problem 593: https://www.erdosproblems.com/593 ($500 prize)

> Characterize those finite 3-uniform hypergraphs which appear in every 3-uniform hypergraph of chromatic number > ℵ₀.

## Contents
- ThreeUniformHypergraph structure with IsProperColoring, chromaticCardinal, Appears, IsObligatory
- Main open theorem `erdos_593`
- Graph analogue variants (Erdős-Galvin-Hajnal [EGH75])
- 4 fully proved lemmas (uncountable vertices, nonempty edges, obligatory monotone, empty obligatory)

Assisted by Claude (Anthropic).

### CODE REVIEW

**Comment by henrykmichalewski** [comment]
Closes #813

File: FormalConjectures/ErdosProblems/593.lean [hunk 1]
```diff
@@ -0,0 +1,265 @@
...
+The 3-uniform case remains **open**.
+
+**Formalization notes:** We represent a 3-uniform hypergraph on vertex type `V` as a pair
+`(edges, uniform)` where `edges : Set (Finset V)` and every edge has cardinality 3. A proper
+coloring sends vertices to colors such that no hyperedge is monochromatic. The chromatic
+cardinal is the infimum of cardinalities of color types admitting a proper coloring. A finite
+hypergraph `F` *appears* in `H` if there is an injective vertex map carrying edges of `F`
+into edges of `H`.
+
+We work at universe level `Type` (universe 0) throughout to avoid universe metavariable issues.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]: All this stuff here should go to where it belongs, for instance the Formalisation notes on 3-uniform hypergraphs closer to where the hypergraphs are defined

File: FormalConjectures/ErdosProblems/593.lean [hunk 2]
```diff
@@ -0,0 +1,265 @@
...
+    (F : ThreeUniformHypergraph W) (H : ThreeUniformHypergraph V) : Prop :=
+  ∃ φ : W → V, Function.Injective φ ∧
+    ∀ e ∈ F.edges, e.image φ ∈ H.edges
+
+/-- A finite 3-uniform hypergraph `F` on a `Fintype` vertex type is **obligatory** if it
+appears in every 3-uniform hypergraph (on a `Type`-valued vertex set) whose chromatic
+cardinal exceeds `ℵ₀`. -/
+def IsObligatory {W : Type} [Fintype W] (F : ThreeUniformHypergraph W) : Prop :=
+  ∀ (V : Type) [DecidableEq V] (H : ThreeUniformHypergraph V),
+    ℵ₀ < H.chromaticCardinal → F.Appears H
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]: Those definitions should go in our `FormalConjecturesForMathlib` dir in an appropriate place. I'm surprised that Mathlib doesn't have hypergraphs already

File: FormalConjectures/ErdosProblems/593.lean [hunk 3]
```diff
@@ -0,0 +1,265 @@
...
+**Prize:** \$500 (see erdosproblems.com/593).
+
+**Status:** OPEN.
+-/
+@[category research open, AMS 5]
+theorem erdos_593 : answer(sorry) ↔
+    ∃ (P : ∀ (W : Type) [Fintype W], ThreeUniformHypergraph W → Prop),
+      ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
+        IsObligatory F ↔ P W F := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean:83]: AS stated this is trivially true: 

```
theorem erdos_593 : answer(True) ↔
    ∃ (P : ∀ (W : Type) [Fintype W], ThreeUniformHypergraph W → Prop),
      ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
        IsObligatory F ↔ P W F := by
  exact ⟨fun _ => ⟨fun _ _ F => IsObligatory F, fun _ _ _ => Iff.rfl⟩, fun _ => trivial⟩
```
The original problem asks to characterize which finite 3-uniform hypergraphs are obligatory i.e., to give a structural description in terms of simpler properties (analogous to "bipartite" in the graph case). Bare existential quantification over predicates cannot capture this: in formal logic, every property trivially characterizes itself.

This is a known difficulty with formalizing "characterize X" problems. Potentially our `answer(sorry)` mechanism can help here?

**Review by mo271 — COMMENTED** [review]
Thanks!
There are some problems here, see comments, I only reviewed up to the first trivially provable open (or not so open) statement

File: FormalConjectures/ErdosProblems/593.lean (hunk 3 above)
Comment (henrykmichalewski) [reply FormalConjectures/ErdosProblems/593.lean:83]: Good catch — applied your suggestion in [`6565a7f`](https://github.com/henrykmichalewski/formal-conjectures/commit/6565a7f) (April 17, same day as the review). The trivial existential pattern is gone; the file now states **two substantive `answer(sorry)` theorems** capturing the open conjecture from each direction:

```lean
@[category research open, AMS 5]
theorem erdos_593 : answer(sorry) ↔
    ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
      IsObligatory F → F.IsTwoColorable

@[category research open, AMS 5]
theorem erdos_593.variants.two_colorable_implies_obligatory : answer(sorry) ↔
    ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
      F.IsTwoColorable → IsObligatory F
```

The conjecture is that `IsObligatory F ↔ F.IsTwoColorable` (analogous to the Erdős–Galvin–Hajnal characterisation of obligatory graphs as the bipartite ones); we file each direction as its own open question via `answer(sorry)` so neither is trivially provable. Hopefully this captures what you suggested with the `answer(sorry)` mechanism.

**Comment by henrykmichalewski** [comment]
@mo271 — back here after a long pause. All three of your April 17 review comments were addressed in [`6565a7f`](https://github.com/henrykmichalewski/formal-conjectures/commit/6565a7f) the same day. Recap, since the PR's been quiet:

| Your comment | Status |
|---|---|
| L57: "all this stuff here should go to where it belongs" (formalisation notes) | Moved closer to the `ThreeUniformHypergraph` definitions in the new infra module. GitHub marks the thread outdated. |
| L99: "those definitions should go in `FormalConjecturesForMathlib`" | Moved to [`FormalConjecturesForMathlib/Combinatorics/Hypergraph/ThreeUniform.lean`](https://github.com/henrykmichalewski/formal-conjectures/blob/add-problem-593/FormalConjecturesForMathlib/Combinatorics/Hypergraph/ThreeUniform.lean) (105 lines: `ThreeUniformHypergraph`, `IsProperColoring`, `chromaticCardinal`, `Appears`, `IsTwoColorable`, `IsObligatory`). 593.lean now just imports them. |
| L115: "trivially true as stated" | Replaced the `answer(True) ↔ ∃ P, ...` pattern with two `answer(sorry)` theorems stating the necessary direction (`IsObligatory F → F.IsTwoColorable`) and its converse, per your `answer(sorry)` suggestion. Reply on the inline thread. |

PR is `MERGEABLE` (CLA + CI green); ready for re-review whenever you have a moment.

File: FormalConjectures/ErdosProblems/593.lean [hunk 4]
```diff
@@ -0,0 +1,252 @@
...
+
+This theorem states the known necessary direction (every obligatory hypergraph is 2-colorable),
+which is the analogue of the graph case result. The full characterization remains open.
+
+**Status:** OPEN (the necessary condition stated here is part of the open problem).
+
+**Prize:** \$500 (see erdosproblems.com/593).
+-/
+@[category research open, AMS 5]
+theorem erdos_593 : answer(sorry) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/593.lean:49]: Does the source ask for a characterization of the finite 3-uniform hypergraphs that are obligatory, rather than just the necessary direction `IsObligatory F → F.IsTwoColorable`? I think it would be safer to either state the characterization predicate directly, with the unknown class behind `answer(sorry)`, or make this an iff if 2-colorability is intended as the conjectured characterization.

File: FormalConjectures/ErdosProblems/593.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+
+/--
+**Vertices must be uncountable**: Every 3-uniform hypergraph with chromatic cardinal
+$> \aleph_0$ must have an uncountable vertex set.
+
+**Proof:** If `V` is countable, there exists an injection `φ : V → ℕ`. Using distinct natural
+numbers as colors gives a proper coloring, so $\chi(H) \leq \#\mathbb{N} = \aleph_0$,
+contradicting $\chi(H) > \aleph_0$.
+-/
+@[category undergraduate, AMS 5]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/593.lean]: nit: Looks like this file still uses `@[category undergraduate]` for a few auxiliary/supporting lemmas. This now no longer works on `main` - the new version of this is `textbook`.

**Comment by henrykmichalewski** [comment]
@Paul-Lez — addressed your characterization comment in [`eb09c34`](https://github.com/henrykmichalewski/formal-conjectures/commit/eb09c34). The headline `erdos_593` is now stated as the conjectured iff:

```lean
@[category research open, AMS 5]
theorem erdos_593 : answer(sorry) ↔
    ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
      IsObligatory F ↔ F.IsTwoColorable := by
  sorry
```

with both directions kept as separate `answer(sorry)`-d open variants (`obligatory_implies_two_colorable` and the existing `two_colorable_implies_obligatory`).

Your `category undergraduate` → `category textbook` rename nit is **deferred to a separate follow-up**: the rename requires merging upstream/main into this branch first, since the branch-local CategoryLinter currently rejects `textbook`. I'll bundle that with the PR #3775 merge-main work and apply it consistently across all our open branches.

Builds cleanly.

File: FormalConjectures/ErdosProblems/593.lean [hunk 6]
```diff
@@ -0,0 +1,266 @@
...
+
+/-!
+# Erdős Problem 593
+
+**Verbatim statement (Erdős #593, status O):**
+> Characterize those finite 3-uniform hypergraphs which appear in every 3-uniform hypergraph of chromatic number $>\aleph_0$.
+
+**Source:** https://www.erdosproblems.com/593
+
+**Notes:** OPEN - $500
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/593.lean [hunk 7]
```diff
@@ -0,0 +1,266 @@
...
+
+
+*Reference:* [erdosproblems.com/593](https://www.erdosproblems.com/593)
+
+*References for known results:*
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
*References:* 
- [erdosproblems.com/593](https://www.erdosproblems.com/593)
```

(Seeing this for the third time in your Erdős pull request: we generally just list all references under `References` and don't distinguis between one main one and references for known results, please fix in all of the pending prs)

File: FormalConjectures/ErdosProblems/593.lean [hunk 8]
```diff
@@ -0,0 +1,266 @@
...
+  number $\aleph_1$ that contains no cycle of length $k$.
+
+The 3-uniform case remains **open**.
+
+**Formalization notes:** See `FormalConjecturesForMathlib.Combinatorics.Hypergraph.ThreeUniform`
+for the definitions of `ThreeUniformHypergraph`, `IsProperColoring`, `chromaticCardinal`,
+`Appears`, and `IsObligatory` used throughout this file.
+
+Note: Mathlib does not yet have a general hypergraph API; the infrastructure in
+`FormalConjecturesForMathlib.Combinatorics.Hypergraph.ThreeUniform` fills that gap.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion

```

Not need to repeat the statement etc in the module docstring: generally the problem statement and variants for the problem should basically only be written down once, i.e. we generally want to have exactly one verbatim copy of what is written on erdosproblems.com spread across the entire file -- statements of variants should go to the lean statement of those variants and not in the module docstring. 
Please fix in all pending prs.

File: FormalConjectures/ErdosProblems/593.lean [hunk 9]
```diff
@@ -0,0 +1,266 @@
...
+**Background:** In the graph case ($r = 2$), Erdős, Galvin, and Hajnal [EGH75] proved that
+the obligatory finite graphs are exactly the finite bipartite graphs (= 2-colorable graphs).
+The natural conjectured 3-uniform analogue — and the conjectural characterization recorded
+here — is that obligatory finite 3-uniform hypergraphs are exactly the 2-colorable ones
+(Property B). The forward direction (`IsObligatory → IsTwoColorable`) and converse
+(`IsTwoColorable → IsObligatory`) are both open and stated as separate variants below.
+
+**Status:** OPEN.
+
+**Prize:** \$500 (see erdosproblems.com/593).
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]: There is never a need to mention the `**Status**`: those are captured in the category tag (`research open`) and should not be duplicated. Also the "price" shouldn't be mentioned more than once. 
```suggestion
```

Please also fix in other pending prs.

File: FormalConjectures/ErdosProblems/593.lean [hunk 10]
```diff
@@ -0,0 +1,266 @@
...
+
+/--
+**Erdős Problem 593 — Necessary direction (open)**: Every obligatory finite 3-uniform
+hypergraph is 2-colorable.
+
+This is the natural necessary condition for the conjectural characterization in `erdos_593`:
+if a finite 3-uniform hypergraph `F` is not 2-colorable, one expects to construct a
+hypergraph with large chromatic number that contains no copy of `F`.
+
+**Status:** OPEN.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/593.lean [hunk 11]
```diff
@@ -0,0 +1,266 @@
...
+**Erdős Problem 593 — Sufficient direction (open)**: Every finite 2-colorable 3-uniform
+hypergraph is obligatory.
+
+This is the converse direction of the `erdos_593` characterization: if 2-colorability
+matches the graph-case characterization (bipartite ⇔ obligatory), then every 2-colorable
+finite 3-uniform hypergraph must appear in every 3-uniform hypergraph of chromatic number
+$> \aleph_0$.
+
+**Status:** OPEN. Together with `erdos_593.variants.obligatory_implies_two_colorable`,
+this implies `erdos_593`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
Together with `erdos_593.variants.obligatory_implies_two_colorable`,
this implies `erdos_593`.
```

Comment (mo271) [reply FormalConjectures/ErdosProblems/593.lean]: potentially this implication could also be added as formal statement?

File: FormalConjectures/ErdosProblems/593.lean [hunk 12]
```diff
@@ -0,0 +1,266 @@
...
+
+/- ## Variants and partial results -/
+
+/--
+**Graph analogue — bipartite graphs are obligatory (solved, Erdős–Galvin–Hajnal [EGH75])**:
+For the 2-uniform (graph) case, a graph of chromatic cardinal $> \aleph_0$ must contain all
+finite bipartite graphs. Specifically, for every finite bipartite graph `F` and every graph
+`G` with chromatic cardinal $> \aleph_0$, there is a graph homomorphism from `F` to `G`.
+
+**Status:** SOLVED [EGH75].
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/593.lean [hunk 13]
```diff
@@ -0,0 +1,266 @@
...
+  -- This is the Erdős–Galvin–Hajnal theorem [EGH75].
+  sorry
+
+/--
+**Graph analogue — no odd cycle is obligatory (solved, Erdős–Galvin–Hajnal [EGH75])**:
+For every odd $k \geq 3$, there exists a graph with chromatic cardinal $\aleph_1$ that
+contains no cycle of length $k$. This shows the class of obligatory graphs is strictly
+smaller than all finite graphs.
+
+**Status:** SOLVED [EGH75].
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/593.lean [hunk 14]
```diff
@@ -0,0 +1,266 @@
...
+-/
+@[category research solved, AMS 5]
+theorem erdos_593.variants.graph_case_bipartite_obligatory :
+    answer(True) ↔
+    ∀ (V : Type*) (G : SimpleGraph V),
+      ℵ₀ < G.chromaticCardinal →
+      ∀ (W : Type*) [Fintype W] (F : SimpleGraph W), F.IsBipartite →
+        Nonempty (F →g G) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]: graph_case_bipartite_obligatory uses `Nonempty (F →g G)` (existence of a graph homomorphism) to express "F appears in G", but the hypergraph `Appears` definition requires an injective vertex map. These are different notions.

Consider using `Nonempty (F ↪g G)` (graph embedding) or at least document why homomorphism suffices if it does.

**Review by mo271 — COMMENTED** [review]
Thanks! 
There are a few comments which more widely apply to other formalisations and a few specific to the math here. (It is now mostly good, i.e. I didn't find trivial disproofs and it looks like the formalisation faithfully represents the informal maths...)

**Comment by henrykmichalewski** [comment]
Applied mo271's docstring-convention review pass in [`53f4f31`](https://github.com/henrykmichalewski/formal-conjectures/commit/53f4f31):
- Lines 28, 33, 64: collapsed the two reference blocks into a single `*References:*` block; dropped the duplicated verbatim statement and background paragraph from the module docstring.
- Lines 89, 105, 139, 158: removed the **Status:** / **Prize:** mentions from `erdos_593`, the obligatory-implies-two-colorable variant, and the two graph-case variants (already captured by `@[category]`).
- Line 123 (substantive follow-up): added `erdos_593.variants.implications_combine`, the elementary `Iff` derivation showing that the two open implications jointly imply the conjectured characterization in `erdos_593`.

Follow-up flagged in the line-147 thread: `graph_case_bipartite_obligatory` uses `Nonempty (F →g G)` (graph homomorphism) but the hypergraph `Appears` definition uses an injective vertex map. Switching to `Nonempty (F ↪g G)` (graph embedding) is left as a follow-up; a docstring note on the theorem records the discrepancy so it isn't lost.

Build: `lake build FormalConjectures.ErdosProblems.«593»` is green.

File: FormalConjectures/ErdosProblems/593.lean [hunk 15]
```diff
@@ -0,0 +1,238 @@
...
+analogous result (obligatory ⇔ bipartite).
+-/
+@[category research open, AMS 5]
+theorem erdos_593 : answer(sorry) ↔
+    ∀ (W : Type) [Fintype W] (F : ThreeUniformHypergraph W),
+      IsObligatory F ↔ F.IsTwoColorable := by
+  sorry
+
+/--
+**Erdős Problem 593 — Necessary direction (open)**: Every obligatory finite 3-uniform
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
**Erdős Problem 593 — Necessary direction**: Every obligatory finite 3-uniform
```

Let's remove the "open" from docstrings altogether -- those are recorded in the category tag and will just be a pain to keep in sync when problems get solved

**Review by mo271 — COMMENTED** [review]
Regarding: 

Note: this statement uses `Nonempty (F →g G)` (graph homomorphism), which is weaker than the
injective vertex map used in the hypergraph `Appears` definition. A future revision may switch
to `Nonempty (F ↪g G)` (graph embedding) to align with the hypergraph notion.


Let's do this now, rather than in a follow-up

File: FormalConjectures/ErdosProblems/593.lean (hunk 14 above)
Comment (henrykmichalewski) [reply FormalConjectures/ErdosProblems/593.lean]: Done in [`7170485`](https://github.com/henrykmichalewski/formal-conjectures/commit/7170485). `graph_case_bipartite_obligatory` now uses `Nonempty (F ↪g G)` (graph embedding), aligned with the injective vertex map of the hypergraph `Appears` definition; the docstring caveat is removed. Build green.

File: FormalConjectures/ErdosProblems/593.lean (hunk 15 above)
Comment (henrykmichalewski) [reply FormalConjectures/ErdosProblems/593.lean]: Applied the suggestion plus the same rule across all docstrings in the file (necessary/sufficient direction headlines and the two graph-case variants no longer carry `(open)`/`(solved)` suffixes — those are captured by the `@[category]` tag). Commit: [`7170485`](https://github.com/henrykmichalewski/formal-conjectures/commit/7170485).

**Comment by henrykmichalewski** [comment]
Addressed mo271's two follow-ups in [`7170485`](https://github.com/henrykmichalewski/formal-conjectures/commit/7170485):

- **Line 147** (graph homomorphism → embedding): `graph_case_bipartite_obligatory` now uses `Nonempty (F ↪g G)` (`SimpleGraph.Embedding`, `Mathlib.Combinatorics.SimpleGraph.Maps`), aligned with the injective vertex map of the hypergraph `Appears` definition; the docstring caveat is removed.
- **Line 56 + sweep** (drop `(open)`/`(solved)` from docstrings): applied across all four affected docstrings (necessary/sufficient direction headlines and the two graph-case variants). Status is now solely captured by `@[category research open]` / `@[category research solved]`.

Build: `lake build FormalConjectures.ErdosProblems.«593»` is green.

File: FormalConjectures/ErdosProblems/593.lean [hunk 16]
```diff
@@ -0,0 +1,237 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjecturesForMathlib.Combinatorics.Hypergraph.ThreeUniform
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/593.lean]:
```suggestion
```

**Review by mo271 — COMMENTED** [review]
Thanks, LGTM now!

**Review by mo271 — APPROVED** [review]
